US07745641B2
In a similar manner to Step 1 of Example 233, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0304 g, 0.0659 mmol) was dissolved in acetonitrile (0.650 mL), and the solution was treated with triethylamine (0.0550 mL, 0.395 mmol) and 2-methylbenzenesulfonyl chloride (0.0280 mL, 0.198 mmol) to obtain 4-(2-methylbenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0280 g, yield 69%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0659 mmol, 0.0304 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.395 mmol, 0.0550 mL | C(C)N(CC)CC | C6H15N
reactant | 2-methylbenzenesulfonyl chloride | 0.198 mmol, 0.0280 mL | CC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | acetonitrile | 0.650 mL | C(C)#N | C2H3N
product | 4-(2-methylbenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0280 g, yield 69% | CC1=C(C=CC=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C34H37N3O6S
